US05824690
Synthesis of 1-[2-[3-(3,4-dimethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethyl-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (3.0 g, 6.1 mmol) and tetrahydrofuran (45 mL)/water (15 mL). Add 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (2.2 g, 9.14 mmol) and potassium carbonate (2.6 g, 18.8 mmol). Heat to reflux. After 80 hours, evaporate the reaction mixture in vacuo to remove most of the tetrahydrofuran and then extract with dichloromethane. Separate the organic layer and extract with water. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate, 3% methanol/dichloromethane, 6% methanol/dichloromethane, and then 10% methanol/dichloromethane to give the title compound: Rf =0.44 (silica gel, 10% methanol/dichloromethane).

reactant | 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethyl-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 6.1 mmol, 3.0 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)C)C)CCCS(=O)(=O)[O-])C=C(C1OC)OC
reactant | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 9.14 mmol, 2.2 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | potassium carbonate | 18.8 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol dichloromethane | CO.ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 15 mL | O | H2O
product | 1-[2-[3-(3,4-dimethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | CC=1C=C(C=CC1C)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C36H45N3O5
